US09169242B2
Step 3: 4-Bromo-N-(2,6-difluorophenyl)-3-methylthiophene-2-carboxamide:
To a 0° C. solution of 2,6-difluoroaniline (1.10 g, 8.58 mmol, 1.0 eq) in DCM (20 mL) was added drop wise trimethyl aluminium (2 M in toluene, 4.3 mL, 1.0 eq) followed by a solution of methyl-4-bromo-3-methylthiophene-2-carboxylate (2.0 g, 8.58 mmol, 1.0 eq). The reaction was allowed to come to room temperature and then stirred for 2 h at the same temperature. The reaction was quenched with water (10 mL) followed by the addition of DCM (20 mL). The layers were separated, and the organic layer was washed with brine (15 mL), dried (Na2SO4) and filtered. The filtrate was rotary evaporated and the residue was purified by flash column chromatography (silica gel, 30% ethyl acetate in hexane) to afford 1.0 g (35%) of the desired product as a brown solid. 1HNMR (400 MHz, CDCl3) δ 7.42 (s, 1H), 7.28-7.21 (m, 1H), 7.15 (s, 1H, D2O exchangeable), 7.03-6.94 (m, 2H), 2.56 (s, 3H); ESI-MS (m/z) 332, 334 [(MH)+, Br79,81].

reactant | 2,6-difluoroaniline | 8.58 mmol, 1.10 g, 1.0 eq | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | trimethyl aluminium | 2 M, 4.3 mL, 1.0 eq | C[Al](C)C
reactant | methyl-4-bromo-3-methylthiophene-2-carboxylate | 8.58 mmol, 2.0 g, 1.0 eq | COC(=O)C=1SC=C(C1C)Br | C7H7BrO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-(2,6-difluorophenyl)-3-methylthiophene-2-carboxamide | 1.0 g, 35% | BrC=1C(=C(SC1)C(=O)NC1=C(C=CC=C1F)F)C | C12H8BrF2NOS
